US09078444B2
Preparation of 4-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-mercapto-butyryl]-2-methyl-N-thietan-3-yl-benzamide
To 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-N-thietan-3-yl-benzamide (500 mg) was added thioacetic acid (6 eq.) and triethylamine (4 μL). The solution was stirred under argon at room temperature for 41 hours. To this mixture was added a minimum of dichloromethane and then isolute. The suspension was evaporated under vacuo. The residue was purified by chromatography on silica gel (eluent: cyclohexane/ethyl acetate) to give:

reactant | 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-N-thietan-3-yl-benzamide | 500 mg | ClC=1C=C(C=C(C1)Cl)\C(=C/C(=O)C1=CC(=C(C(=O)NC2CSC2)C=C1)C)\C(F)(F)F | C21H16Cl2F3NO2S
reactant | thioacetic acid | 6 eq. | C(C)(=S)O | C2H4OS
reactant | triethylamine | 4 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-mercapto-butyryl]-2-methyl-N-thietan-3-yl-benzamide | ClC=1C=C(C=C(C1)Cl)C(CC(=O)C1=CC(=C(C(=O)NC2CSC2)C=C1)C)(C(F)(F)F)S | C21H18Cl2F3NO2S2
